US08258130B2
A solution of 2-pyridin-2-yl-pyrimidine-5-carboxylic acid (209 mg, 0.88 mmol), HOTT (435 mg, 1.17 mmol), and DIPEA (400 μL, 2.29 mmol) in DMF (10 mL) is stirred at rt under N2 for 20 min. 5-Fluoro-3-methyl-indol-1-ylamine (125 mg, 0.76 mmol) is added. The resulting mixture is stirred at rt overnight. The mixture is portioned between EtOAc and water. The organic phase is separated, washed with saturated aqueous NaHCO3, water and brine, dried (MgSO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 70% EtOAc in heptane to afford 2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-fluoro-3-methyl-indol-1-yl)-amide (180 mg, 68%) as a solid. MS: 348 (M+H). 1H NMR (300 MHz, DMSO-d6): δ 12.12 (s, 1H), 9.47 (s, 2H), 8.82 (d, 1H), 8.51 (d, 1H), 8.05 (td, 1H), 7.62 (dd, 1H), 7.42 (dd, 1H), 7.35 (dd, 1H), 7.33 (s, 1H), 7.03 (td, 1H), 2.27 (s, 3H).

reactant | 2-pyridin-2-yl-pyrimidine-5-carboxylic acid | 0.88 mmol, 209 mg | N1=C(C=CC=C1)C1=NC=C(C=N1)C(=O)O | C10H7N3O2
reactant | HOTT | 1.17 mmol, 435 mg | CN(C)C(=[N+](C)C)SC1=CC=CC=[N+]1[O-].F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.29 mmol, 400 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-Fluoro-3-methyl-indol-1-ylamine | 0.76 mmol, 125 mg | FC=1C=C2C(=CN(C2=CC1)N)C | C9H9FN2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-pyridin-2-yl-pyrimidine-5-carboxylic acid (5-fluoro-3-methyl-indol-1-yl)-amide | 180 mg, 68% | FC=1C=C2C(=CN(C2=CC1)NC(=O)C=1C=NC(=NC1)C1=NC=CC=C1)C | C19H14FN5O
